US07314936B2
To a solution of cyclopentanone (25.0 mL, 0.28 mol, 1.0 eq.) in toluene (100 mL), was added pyrrolidine (27.5 mL, 1.2 eq.). The reaction was equipped with a Dean-Stark and heated at reflux overnight. The reaction mixture was cooled to room temperature and concentrated to give the crude 1-cyclopent-1-enyl-pyrrolidine (45.8 g, >100%).

reactant | cyclopentanone | 0.28 mol, 25.0 mL, 1.0 eq. | C1(CCCC1)=O | C5H8O
reactant | pyrrolidine | 27.5 mL, 1.2 eq. | N1CCCC1 | C4H9N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-cyclopent-1-enyl-pyrrolidine | 45.8 g, >100% | C1(=CCCC1)N1CCCC1 | C9H15N
